US07691850B2
a) 1,1-dimethylethyl(4R)-3-oxo-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
Dissolve 1,1-dimethylethyl(3R,4R)-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate (1.0 g, 2.85 mmol) in methylene chloride (20 mL). Add PCC (1.23 g, 5.7 mmol) and Florisil (2.5 g) and stir at ambient temperature for 16 hours. Add 3 more equivalents of PCC (1.84 g, 8.55 mmol) and stir for 48 hours. Dilute solution with ether and filter through a pad of celite. The solvent was removed under reduced pressure yielding a crude oil. The crude mixture was purified on silica gel. (0.598 g, 60%). LCMS: m/z 349.4 (MH+).

reactant | 1,1-dimethylethyl(3R,4R)-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 2.85 mmol, 1.0 g | O[C@H]1CN(C[C@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H26N2O5
reactant | PCC | 5.7 mmol, 1.23 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | Florisil | 2.5 g | [O-][Si](=O)[O-].[Mg+2]
reactant | PCC | 8.55 mmol, 1.84 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl(4R)-3-oxo-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | O=C1CN(C[C@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H24N2O5
